US20010046993A1
C. 1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentanecarboxylic acid
The mixture of ethyl 1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentanecarboxylate (300 mg, 0.871 mmol) and KOH (85%, 0.36 g, 3.49 mmol) in methanol (5.0 ml) and water (1.2 ml) was stirred at 95° C. overnight. To the mixture was added 2 N HCl until the pH became 5. After the solvent was removed in vacuo, the residue was extracted with dichloromethane (30 ml). The extract was washed with brine, dried over NASO4, filtered and concentrated in vacuo to provide a yellow oil (276 mg/100%).

reactant | ethyl 1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentanecarboxylate | 0.871 mmol, 300 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)C(=O)OCC | C21H32N2O2
reactant | KOH | 3.49 mmol, 0.36 g | [OH-].[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 5.0 ml | CO | CH4O
solvent | water | 1.2 ml | O | H2O
product | 1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentanecarboxylic acid | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)C(=O)O | C19H28N2O2
